US05707933
A solution of 56 g 6-amino-2-bromo-4-methylpyridine in 500 ml of concentrated hydrochloric acid was cooled to -50° C. and saturated with gaseous HCl via a gas inlet. Under continuous cooling a solution of 25 g sodium nitrite in 60 ml water was added slowly. The reaction mixture was stirred for a further 2 hours at -50° C. The mixture was allowed to warm up to ambient temperature and set alkaline with a 50% aqueous solution of sodium hydroxide. The aqueous phase was extracted three times each with 200 ml dichloromethane. The combined extracts were dried with calcium chloride, and the solvent removed in vacuo to afford 22.5 g (40%) of 2-bromo-6-chloro-4-methylpyridine as a pale brown solid of melting point 76° C.

reactant | 6-amino-2-bromo-4-methylpyridine | 56 g | NC1=CC(=CC(=N1)Br)C | C6H7BrN2
reactant | sodium nitrite | 25 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | water | 60 ml | O | H2O
product | 2-bromo-6-chloro-4-methylpyridine | 22.5 g, 40% | BrC1=NC(=CC(=C1)C)Cl | C6H5BrClN
